US05189054
Preparation of 3-[(p-fluorophenacyl)amino]-2-carbmethoxy-6-chloroindole
Suspend the 3-amino-2-carbmethoxy-6-chloroindole (1.15 g, 5.12 mmol) in methylene chloride (80 mL) and add triethylamine (0.497 mL, 5.5 mmol). Add the p-fluorobenzoyl chloride (0.650 mL, 5.5 mmol) and stir for 30 minutes at room temperature to produce a precipitate. Dilute the reaction with ethyl acetate (150 mL), rinse with water, dry over magnesium sulfate, filter and concentrate in vacuo to yield the title compound.

reactant | 3-amino-2-carbmethoxy-6-chloroindole | 5.12 mmol, 1.15 g | NC1=C(NC2=CC(=CC=C12)Cl)C(=O)OC | C10H9ClN2O2
reactant | triethylamine | 5.5 mmol, 0.497 mL | C(C)N(CC)CC | C6H15N
reactant | p-fluorobenzoyl chloride | 5.5 mmol, 0.650 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 3-[(p-fluorophenacyl)amino]-2-carbmethoxy-6-chloroindole | FC1=CC=C(C(CNC2=C(NC3=CC(=CC=C23)Cl)C(=O)OC)=O)C=C1 | C18H14ClFN2O3
